US07307084B2
AV. N-(7-Hydroxy-2,3-dimethy-3H-benzimidazol-5-yl)-N-methyl-acetamide
A solution of 3.1 g (18.9 mmol) N-(7-benzyloxy-2,3-dimethy-3H-benzimidazol-5-yl)-N-methyl-acetamide and 1.2 ml acetic acid in 600 ml ethanol was hydrogenated over 1.2 g 10%. Pd/C in an autoclave (5 bar H2) at 50° C. for 18 h. The catalyst was filtered off and the filtrate was concentrated in vacuo to afford 4.5 g (100%) of the title compound as a yellow solid.

reactant | N-(7-benzyloxy-2,3-dimethy-3H-benzimidazol-5-yl)-N-methyl-acetamide | 18.9 mmol, 3.1 g | C(C1=CC=CC=C1)OC1=CC(=CC2=C1N=C(N2C)C)N(C(C)=O)C | C19H21N3O2
reactant | acetic acid | 1.2 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | N-(7-Hydroxy-2,3-dimethy-3H-benzimidazol-5-yl)-N-methyl-acetamide | 4.5 g, 100% | OC1=CC(=CC2=C1N=C(N2C)C)N(C(C)=O)C | C12H15N3O2
